US08030334B2
A flask is charged with ethanesulfonic acid [5-(1-methyl-3-vinyl-1H-indol-2-yl)-pyridin-3-yl]-amide (35 mg, 0.082 mmol) and MeOH (5 mL). The flask is evacuated and flushed with N2 thrice. Pd/C (4.36 mg) is added and the reaction stirred under H2 overnight at 50° C. The reaction is filtered over celite and the celite layer is washed thoroughly with MeOH. The filtrate is concentrated in vacuo. The crude is purified by silica gel flash chromatography (dichloromethane-methanol, 19:1) followed by HPLC purification using Xbridge C18 eluting with a 10 to 100% acetonitrile-water gradient to afford the pure product ethanesulfonic acid [5-(3-ethyl-1-methyl-1H-indol-2-yl)-pyridin-3-yl]-amide. 1H NMR (400 MHz, MeOD) δ ppm 1.27 (t, J=7.6 Hz, 3H), 1.40 (t, J=7.3 Hz, 3H), 2.76 (q, J=7.6 Hz, 2H), 3.25 (q, J=7.3 Hz, 2H), 3.66 (s, 3H), 7.09-7.17 (m, 1H), 7.23-7.31 (m, 1H), 7.43 (d, J=8.3 Hz, 1H), 7.65 (d, J=7.8 Hz, 1H), 7.83 (t, J=2.3 Hz, 1H), 8.36 (d, J=1.8 Hz, 1H), 8.49 (d, J=2.5 Hz, 1H). HRMS: (ESI) m/z 344.1435 [(M+H)+ Calcd for C18H21N3O23 344.1427].

reactant | ethanesulfonic acid [5-(1-methyl-3-vinyl-1H-indol-2-yl)-pyridin-3-yl]-amide | 0.082 mmol, 35 mg | CN1C(=C(C2=CC=CC=C12)C=C)C=1C=C(C=NC1)NS(=O)(=O)CC | C18H19N3O2S
solvent | MeOH | 5 mL | CO | CH4O
product | ethanesulfonic acid [5-(3-ethyl-1-methyl-1H-indol-2-yl)-pyridin-3-yl]-amide | C(C)C1=C(N(C2=CC=CC=C12)C)C=1C=C(C=NC1)NS(=O)(=O)CC | C18H21N3O2S
